US07429579B2
e) 6-[5-(3-[1,3] Dioxan-2-yl-propyl)-4-methyl-4H-[1,2,4] triazol-3-yl]-2-methyl-quinoline
2-Methyl-quinoline-6-carboxylic acid N′-(4-[1,3] dioxan-2-yl-1-methylimino-butyl)-hydrazide (1.28 g, 3.4 mmol) was heated in ethyl acetate (20 ml) for 4 h. The solvent was evaporated and the residue was purified by silica gel chromatography (eluent 20% MeOH:EtOAc) which gave the title compound as a brown solid (109 mg, 10%).

reactant | 2-Methyl-quinoline-6-carboxylic acid N′-(4-[1,3] dioxan-2-yl-1-methylimino-butyl)-hydrazide | 3.4 mmol, 1.28 g | O1C(OCCC1)CCCC(=NC)NNC(=O)C=1C=C2C=CC(=NC2=CC1)C | C20H26N4O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6-[5-(3-[1,3] Dioxan-2-yl-propyl)-4-methyl-4H-[1,2,4] triazol-3-yl]-2-methyl-quinoline | 109 mg, 10% | O1C(OCCC1)CCCC=1N(C(=NN1)C=1C=C2C=CC(=NC2=CC1)C)C | C20H24N4O2
